US06387908B1
1-(S)-(diphenylmethoxy)methyl-3-methylbutylamine (Starting compound of Example 21)
To a solution of (S)-(+)-leucinol (118 mg, 1.0 mmol.) in toluene (8 mL) were successively added methanesulfonic acid (96 mg., 1.0 mmol.) and tris(diphenylmethyl)phosphate (0.60 g, 1.0 mmol.) The resulting mixture was heated under reflux for 30 minutes, cooled to room temperature, poured into aqueous 10 sodium carbonate solution, and extracted with ethyl acetate. The extract was successively washed with water and aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The dried extract was placed under reduced pressure to distill off the solvent. To the residue was added chloroform (10 mL), and the insoluble material was removed by filtration. The filtrate was placed under reduced pressure. The residue was dissolved in ether (2 mL) The solution was added to a solution of oxalic acid dihydrate (0.14 g) in methanol (2 mL) with stirring. The mixture was allowed to stand overnight. The precipitate crystals were collected by filtration, washed with a mixture of methanol and ether (1/1), and dried. The obtained oxalate was treated with aqueous sodium hydroxide solution to give the titled compound as pale yellow oil (126 mg, yield: 44%).

reactant | (S)-(+)-leucinol | 1.0 mmol, 118 mg | N[C@@H](CC(C)C)CO | C6H15NO
reactant | methanesulfonic acid | 1.0 mmol, 96 mg | CS(=O)(=O)O | CH4O3S
reactant | tris(diphenylmethyl)phosphate | 1.0 mmol, 0.60 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OP(=O)(OC(C1=CC=CC=C1)C1=CC=CC=C1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H33O4P
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(S)-(diphenylmethoxy)methyl-3-methylbutylamine | 126 mg, yield: 44% | C1(=CC=CC=C1)C(OC[C@H](CC(C)C)N)C1=CC=CC=C1 | C19H25NO
